US03957790
N-3,3-Diphenylpropylpiperazine in the amount of 2.8 g (0.01 mole), 1.87 g (0.01 mole) 9f 3,4-dimethoxybenzyl chloride, 0.5 g (0.005 mole) of triethylamine, 1.4 g (0.01 mole) of potassium carbonate, and 2 ml of dimethylformamide were mixed with 20 ml of toluene, and the resulting mixture was heated at the refluxing temperature for 2 hours. The reaction liquid was left to cool, washed by shaking with water, and the organic solvent layer was concentrated under reduced pressure to obtain 3.6 g (83.6% yield) of oily 1-(3,3-diphenylpropyl)-4-(3,4-dimethoxybenzyl)piperazine.

reactant | N-3,3-Diphenylpropylpiperazine | C1(=CC=CC=C1)C(CCN1CCNCC1)C1=CC=CC=C1 | C19H24N2
reactant | 3,4-dimethoxybenzyl chloride | COC=1C=C(CCl)C=CC1OC | C9H11ClO2
reactant | triethylamine | 0.005 mole, 0.5 g | C(C)N(CC)CC | C6H15N
reactant | potassium carbonate | 0.01 mole, 1.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 1-(3,3-diphenylpropyl)-4-(3,4-dimethoxybenzyl)piperazine | 3.6 g, 83.6% yield | C1(=CC=CC=C1)C(CCN1CCN(CC1)CC1=CC(=C(C=C1)OC)OC)C1=CC=CC=C1 | C28H34N2O2
